US09428490B2
4-(3,5-bis(trifluoromethyl)phenyl)pyrrolidin-2-one (0.5 g, 1.0 eq.) was dissolved in DMF (5 mL) and cooled to 0° C. A solution of NaH in DMF (0.133 g, 2.0 eq.) was added at 0° C. (Z)-1-(3,3-difluoroazetidin-1-yl)-3-iodoprop-2-en-1-one (0.689 g, 1.5 eq.) was then introduced. The reaction mixture was stirred for 30 min at room temp. The reaction mixture was poured into water (50 mL) and extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine (3×50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to afford 0.502 g of crude product, which was purified by chromatography (1% Methanol in DCM) to give 0.030 g of (E)-4-(3,5-bis(trifluoromethyl)phenyl)-1-(3-(3,3-difluoroazetidin-1-yl)-3-oxoprop-1-enyl)pyrrolidin-2-one (Yield 4.03%). 1H NMR (400 MHz, CDCl3) δ 8.15-8.19 (d, J=14 Hz, 1H), 7.69-7.87 (m, 3H), 5.27-5.31 (d, J=14 Hz, 1H), 4.05-4.47 (m, 4H), 3.89-3.93 (s, 1H), 3.73-3.77 (s, 1H), 3.60-3.62 (s, 1H), 3.08-3.13 (s, 1H), 2.78-2.90 (s, 1H); LCMS calcd. for C18H14F8N2O2 [M+H]+. found 443.44 at retention time 2.97 min.

reactant | 4-(3,5-bis(trifluoromethyl)phenyl)pyrrolidin-2-one | 0.5 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CC(NC1)=O)(F)F | C12H9F6NO
reactant | NaH | [H-].[Na+]
reactant | (Z)-1-(3,3-difluoroazetidin-1-yl)-3-iodoprop-2-en-1-one | 0.689 g, 1.5 eq. | FC1(CN(C1)C(\C=C/I)=O)F | C6H6F2INO
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.133 g, 2.0 eq. | CN(C)C=O | C3H7NO
product | (E)-4-(3,5-bis(trifluoromethyl)phenyl)-1-(3-(3,3-difluoroazetidin-1-yl)-3-oxoprop-1-enyl)pyrrolidin-2-one | 0.030 g, Yield 4.03% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CC(N(C1)\C=C\C(=O)N1CC(C1)(F)F)=O)(F)F | C18H14F8N2O2
